US07875639B2
N-[(2Z)-3-[2-(benzyloxy)ethyl]-4,5-dimethyl-1,3-thiazol-2(3H)-ylidene]adamantane-1-carboxamide
4,5-Dimethylthiazol-2-ylamine, (2-Bromoethoxymethyl)-benzene and 1-adamantane carboxylic acid were processed as described in Example 47 to afford the title compound. 1H NMR (CDCl3, 300 MHz) δ ppm 1.58-1.73 (m, 6 H) 1.79 (d, J=2.50 Hz, 6 H) 1.91-2.02 (m, 3 H) 2.15 (s, 3 H) 2.22 (s, 3 H) 3.77 (t, J=5.46 Hz, 2 H) 4.29 (t, J=5.46 Hz, 2 H) 4.47 (s, 2 H) 7.19 (d, J=6.55 Hz, 2 H) 7.22-7.33 (m, 3 H); MS (ESI) m/z 425 (M=H)+.

reactant | 4,5-Dimethylthiazol-2-ylamine | CC=1N=C(SC1C)N | C5H8N2S
reactant | (2-Bromoethoxymethyl)-benzene | BrCCOCC1=CC=CC=C1 | C9H11BrO
reactant | 1-adamantane carboxylic acid | C12(CC3CC(CC(C1)C3)C2)C(=O)O | C11H16O2
product | N-[(2Z)-3-[2-(benzyloxy)ethyl]-4,5-dimethyl-1,3-thiazol-2(3H)-ylidene]adamantane-1-carboxamide | C(C1=CC=CC=C1)OCCN1/C(/SC(=C1C)C)=N/C(=O)C12CC3CC(CC(C1)C3)C2 | C25H32N2O2S
